US07282588B2
4-[1-(1-methylethyl)-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-1-(phenylsulfonyl)-2-[4-(1-pyrrolidinylmethyl)phenyl]-1H-pyrrolo[2,3-b]pyridine
Following the procedure described for Intermediate 101 using 4-[4-[1-(1-methylethyl)-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]benzaldehyde and pyrrolidine provided the title compound. ESMS [M+H]+=647.6.

reactant | 4-[4-[1-(1-methylethyl)-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]benzaldehyde | CC(C)N1N=C(C(=C1)C1=C2C(=NC=C1)N(C(=C2)C2=CC=C(C=O)C=C2)S(=O)(=O)C2=CC=CC=C2)C2=CC=C(C=C2)[N+](=O)[O-] | C32H25N5O5S
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | 4-[1-(1-methylethyl)-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-1-(phenylsulfonyl)-2-[4-(1-pyrrolidinylmethyl)phenyl]-1H-pyrrolo[2,3-b]pyridine | CC(C)N1N=C(C(=C1)C1=C2C(=NC=C1)N(C(=C2)C2=CC=C(C=C2)CN2CCCC2)S(=O)(=O)C2=CC=CC=C2)C2=CC=C(C=C2)[N+](=O)[O-] | C36H34N6O4S
